US05411980
Step B: 5-n-Butyl-2-(2-chlorophenyl)-2,4-dihydro-4-[(2'-sulfamoylbiphenyl-4-yl)methyl]-3H-1,2,4-triazol-3-one
A solution of 122 mg (0.221 mmole) of 5-n-butyl-4-[[2'-(N-t-butylsulfamoyl)biphenyl-4-yl]methyl]-2-(2-chlorophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one in 2.2 ml of anhydrous trifluoroacetic acid (TFA) containing 2 drops of anisole was stirred at room temperature under N2 for 2 days. The TFA was removed under a gentle stream of N2 followed by co-evaporation in vacuo 2× with toluene. The residue was chromatographed on a silica gel column (gradient elution with 0.5-2% MeOH in CH2Cl2). Concentration of the combined product fractions gave 98 mg (89%) of the title compound as a white solid, mp 140°-142° C.; satisfactory purity by TLC in 98:2 CH2Cl2 --MeOH; mass spectrum (FAB) m/e 497 (M+1)+.

reactant | 5-n-butyl-4-[[2'-(N-t-butylsulfamoyl)biphenyl-4-yl]methyl]-2-(2-chlorophenyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.221 mmole, 122 mg | C(CCC)C=1N(C(N(N1)C1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(NC(C)(C)C)(=O)=O | C29H33ClN4O3S
solvent | trifluoroacetic acid | 2.2 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | anisole | 2 drops | C1(=CC=CC=C1)OC | C7H8O
product | 5-n-Butyl-2-(2-chlorophenyl)-2,4-dihydro-4-[(2'-sulfamoylbiphenyl-4-yl)methyl]-3H-1,2,4-triazol-3-one | 98 mg, 89% | C(CCC)C=1N(C(N(N1)C1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O | C25H25ClN4O3S
